Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left arm and leg weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The pt is a ___ year-old R-handed male with hx of colon cancer 
inremission, HTN, remote smoking who presents with left arm and 
leg weakness. 
.
Pt was in normal state of health until ___ AM when he awoke at
11AM in the morning and felt that both of his legs and to a
lesser degree, his left arm felt weak and numb. The weakness was
more pronounced than the sensation of numbness. He was able to
get up and walk around the house without much difficulty and as
he did so, the right leg symptoms completely resolved but his
left sided symptoms remained. He was able to walk stairs with
mild difficulty and was able to go to work where he is a
___. At around 1pm when he was massaging he felt an 
increase
in the weakness in his left arm. He has not dropped any objects,
fallen, or had any real functional impairment due to his 
weakness
aside from some mild difficulty with walking. Denies any facial
weakness or droop. 
.
His daughter called his PCP ___ AM who told them to go to the ED
immediately and they arrived at 3pm. In the ED, due to initially
endorsing b/l ___ weakness, and his history of colon cancer, MRI
C/T/L spine were done to rule out spinal process - these did not
show any signs of compression. 
.
He does note that he is, at baseline, stronger in his right arm
than his left and usually does most of his work with his right
hand, holding his left arm flexed during work. This has been the
case for several years but he does feel a change in his strength
in his arm on this presentation.  
.
On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, hearing difficulty, incoordination. Denies difficulties
producing or comprehending speech.  Denies parasthesiaes. No
bowel or bladder incontinence or retention. He does note at
baseline that after voiding urine, he will sometimes leak a 
small
amount. 
.
On general review of systems, he endorses generalized fatigue,
decreased appetite, and mild cough due to dry air in ED. No 
fever
or chills.  Denies shortness of breath.  Denies chest pain or
tightness, palpitations.  Denies nausea, vomiting, abdominal
pain. No dysuria.
 
Past Medical History:
Colon Cancer in ___ s/p bowel resection and re-anastomoses
Retinal Detachment in ___ R greater than L requiring corrective
surgery
Cataract surgery in ___
Glaucoma
HTN
 
Social History:
___
Family History:
No family history of stroke, seizure, or neurologic disease.
 
Physical Exam:
==============================
ADMISSION PHYSICAL EXAM
==============================
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
.
Neurologic:
.
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty (notably easier in ___ than ___. Language is
fluent with intact comprehension. Normal prosody. There were no
paraphasic errors. Pt was able to name both high and low
frequency objects. Speech was not dysarthric. Able to follow 
both
midline and appendicular commands as well as two step commands.
Pt was able to register 3 objects and recall ___ at 5 minutes
with category cue. There was no evidence of apraxia or neglect.
.
-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline.
.
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. 
.
**Orbits around L arm 
  Delt Bic Tri WrE FE IO IP Quad Ham TA ___
L  5    ___  ___-  5    4+ 5     5     5-  5
R  5    ___  ___   5    5  5     5     5   5
.
-Sensory: Mild proprioceptive loss on left side - joint position
of big toe intact for large but makes more mistakes with smaller
movements and direction of finger stroke on left arm is
marginally impaired. No deficits to light touch, pinprick. No
extinction to DSS. No agraphasthesia. 
.
-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   0
R  2  2    2    2   0
Plantar response was flexor bilaterally. No ankle clonus. 
.
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.
.
-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.
.
.
==============================
DISCHARGE PHYSICAL EXAM
==============================
Vitals  98.5/98.0  ___   ___    RR ___   98%RA   
FSBG 88-122
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, language is
fluent with intact comprehension. Speech was not dysarthric. 
Able to follow both midline and appendicular.
.
-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 3mm and brisk. EOMI without 
nystagmus. VFF to confrontation. 
VII: No facial droop, facial musculature symmetric.
.
-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. No adventitious movements, such as tremor, noted. 
.
**Orbits around L arm 
  Delt Bic Tri WrE FE IO IP Quad Ham TA ___
L  5    ___  ___   5    5 5     5     5  5
R  5    ___  ___   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick

-Coordination:
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing. Able to walk in tandem without difficulty. Romberg 
absent.
 
Pertinent Results:
==============================
ADMISSION LABS
==============================
___ 06:21PM BLOOD WBC-6.2 RBC-5.20 Hgb-15.3 Hct-46.4 MCV-89 
MCH-29.4 MCHC-33.0 RDW-13.1 RDWSD-42.7 Plt ___
___ 05:10PM BLOOD Glucose-101* UreaN-16 Creat-0.7 Na-137 
K-4.6 Cl-100 HCO3-26 AnGap-16
___ 05:10PM BLOOD Calcium-9.5 Phos-2.8 Mg-2.0
___ 06:47PM BLOOD Lactate-1.6
.
.
==============================
DISCHARGE LABS
==============================
___ 06:40AM BLOOD WBC-5.7 RBC-5.20 Hgb-15.5 Hct-46.9 MCV-90 
MCH-29.8 MCHC-33.0 RDW-13.2 RDWSD-43.4 Plt ___
___ 06:40AM BLOOD Glucose-94 UreaN-21* Creat-0.9 Na-137 
K-5.0 Cl-103 HCO3-25 AnGap-14
___ 06:40AM BLOOD ALT-23 AST-33 LD(LDH)-316* CK(CPK)-166 
AlkPhos-79 TotBili-0.4
___ 06:40AM BLOOD cTropnT-<0.01
___ 12:02PM BLOOD TSH-1.2
___ 06:40AM BLOOD Albumin-4.1
.
.
==============================
IMAGING RESULTS
==============================
MRI ___
IMPRESSION: 
1. Right basal gangliar acute infarction. 
2. Areas of subacute infarction within the left centrum 
semiovale. 
3. Extensive chronic small vessel ischemic changes. 
4. No evidence for intracranial metastatic disease. 
.
CTA Head/Neck ___:
IMPRESSION:
1. No acute intracranial abnormality without evidence of 
infarct, hemorrhage,
or mass effect.
2. Nonspecific periventricular and deep white matter hypodensity 
likely
secondary to sequela chronic microangiopathy.
3. Hypoplastic maxillary sinuses which demonstrate 
mild-to-moderate mucosal
thickening.
4. Patent intracranial and neck vasculature without occlusion, 
dissection, or
aneurysm.  Mild stenosis at the origin of the bilateral 
vertebral arteries.
.
ECHO ___:
IMPRESSION: No cardiac source of embolism identified. Preserved 
global and regional biventricular systolic function. No 
significant valvular abnormality seen. 
 
Brief Hospital Course:
___ with hx of colon cancer, HTN, remote smoker, here with 
weakness and mild sensory change in left arm and leg. His exam 
is significant for mild upper motor neuron pattern weakness in 
left leg more than arm, possible mild proprioceptive impairment 
on the left. Imaging demonstrated partial right anterior 
choroidal artery stroke, most likely due to intrinsic 
atherosclerotic disease. He did not have any cardiac arrhythmia 
and ECHO did not show any evidence for PFO or any thrombus 
formation.

His home anti-hypertensives were restarted, as well as ASA 81mg 
qday and atorvastatin 10mg qday.

He had ___ assessment and was found to be safe with regard to his 
walking. He will be discharged home today with outpatient 
physical therapy. His lipid panel is pending at discharge.
.
.
====================================
TRANSITIONAL ISSUES
====================================
START ATORVASTATIN 10mg QDAY
START ASA 81mg QDAY
REPEAT LFTs/LIPIDs in 6 weeks
F/U APPT 3 MONTHS
.
.
=
=
=
=
=
=
=
=
=
=
================================================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
=
=
=
=
=
=
=
=
=
=
================================================================
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? () Yes (LDL = ) - () No  (x) pending at 
discharge 
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) () Yes - () No [if LDL 
>100, reason not given: ]  LDL pending at discharge, started on 
atorvastatin 10mg prior to discharge
6. Smoking cessation counseling given? () Yes - () No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
every day Disp #*30 Tablet Refills:*11
2. Atorvastatin 10 mg PO QPM 
RX *atorvastatin 10 mg 1 tablet(s) by mouth before bed every day 
Disp #*30 Tablet Refills:*3
3. Lisinopril 10 mg PO DAILY 
4. Outpatient Lab Work
AST, ALT, TBili, Fasting Lipids to be drawn ___
ICD-10: ___
Results to: ___, MD ___ 
Phone: ___ Fax: ___
5. Outpatient Physical Therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Acute Ischemic Stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
  
You were hospitalized due to symptoms of left arm and leg 
weakness resulting from an ACUTE ISCHEMIC STROKE, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors where possible.

Your risk factors are:  
- history of smoking
- possibly high cholesterol, the tests have not come back prior 
to your discharge
- high blood pressure

We are changing your medications as follows:  
START ASPIRIN 81mg EVERY DAY
START ATORVASTATIN 10mg EVERY DAY
  
Please take your other medications as prescribed.

Please follow-up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:

- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
you  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body

We wish you a speedy recovery,
Your ___ Neurology Team
 
Followup Instructions:
___